US04044012
1-Hydroxymethyl-1-ethyl-1,2,3,4,6,7,12,12b-octahydro-indolo[2,3-a]quinolizine
1.50 g. (4.6 mmoles) of 1-acetoxymethyl-1-ethyl-1,2,3,4,6,7,12,12b-octahydro-indolo[2,3-a]quinolizine are dissolved in 15 ml. of methanol, and a solution of 0.40 g. (10 mmoles) of sodium hydroxide in 4 ml. of distilled water is added. The mixture is refluxed for 45 minutes, then diluted with 30 ml. of distilled water. The separated crystals are filtered off and washed with distilled water. 1.05 g. of the title compound are obtained; m.o.: 230°-233° C.

reactant | 1-acetoxymethyl-1-ethyl-1,2,3,4,6,7,12,12b-octahydro-indolo[2,3-a]quinolizine | 4.6 mmoles | C(C)(=O)OCC1(CCCN2CCC3=C(C12)NC1=CC=CC=C13)CC | C20H26N2O2
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | 10 mmoles | [OH-].[Na+]
solvent | water | O | H2O
product | 1-Hydroxymethyl-1-ethyl-1,2,3,4,6,7,12,12b-octahydro-indolo[2,3-a]quinolizine | OCC1(CCCN2CCC3=C(C12)NC1=CC=CC=C13)CC | C18H24N2O
